US07276516B2
4-(3-Isopropyl-indole-1-sulfonyl)-benzoic acid methyl ester
Add potassium tert butoxide 1.0 M (1.6 mL, 0.0016 mol) dropwise to a stirring solution of 3-isopropyl indole (0.217 g, 0.00136 mol) in dry DMF (20 mL) under N2 at ambient temperature. Stir the reaction mixture for 30 minutes and add portionwise 4-chlorosulfonyl benzoic acid methyl ester (0.328 g, 0.0014 mol). The light brown reaction mixture decolorizes immediately. Stir the resulting yellow solution overnight. Pour into a EtOAc—H2O mixture (100 to 300 mL). Separate the EtOAc and sequentially extract with H2O (3×250 mL), wash with brine, dry (MgSO4), filter and evaporate giving 0.38 g. Chromatograph on the ISCO using a gradient hexane-EtOAc (0-50%, 30 30 minutes) to give 0.249 g (51%) of the title compound as a waxy solid. Mass spectrum (m/e) (M+H) 358.1113. found (M+H) 358.1129.

reactant | potassium tert butoxide | 0.0016 mol, 1.0 M, 1.6 mL | CC(C)([O-])C.[K+]
reactant | 3-isopropyl indole | 0.00136 mol, 0.217 g | C(C)(C)C1=CNC2=CC=CC=C12 | C11H13N
reactant | 4-chlorosulfonyl benzoic acid methyl ester | 0.0014 mol, 0.328 g | COC(C1=CC=C(C=C1)S(=O)(=O)Cl)=O | C8H7ClO4S
reactant | EtOAc—H2O | 100 to 300 mL | C(C)OC(=O)C.O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | 4-(3-Isopropyl-indole-1-sulfonyl)-benzoic acid methyl ester | 0.249 g, 51% | COC(C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C(C)C)=O | C19H19NO4S
